US04086219
Nα-Benzyloxycarbonyl-D-tryptophan 6.76 g.
, and L-leucine methyl ester hydrochloride 3.96 g., are dissolved in 60 ml. of dimethylformamide, cooled in an ice bath and 2.77 ml., of triethylamine added dropwise. The stirred and cooled solution is then treated with 2.97 g. of 1-hydroxy-benzotriazole and 4.53 g. of dicyclohexylcarbodiimide. The reaction is stirred to room temperature in the melting ice bath and for twenty-four additional hours at room temperature. It is then filtered and the solvent evaporated under reduced pressure. The residue is dissolved in 300 ml. of ethyl acetate and the solution is washed with 0.5 N hydrochloric acid, saturated sodium chloride solution, twice with 5% sodium bicarbonate solution and finally with a saturated sodium chloride solution. The ethyl acetate solution is dried over magnesium sulfate and the solvent evaporated to leave a crystalline solid. The product is crystallized from 125 ml. of hot methanol to give 4.3 g. of Nα -benzyloxycarbonyl-D-tryptophyl-L-leucine methyl ester, mp. 155°-156° C; [α]D23 -21.8°, (c 2.03, methanol).

reactant | L-leucine methyl ester hydrochloride | 3.96 g | Cl.COC([C@@H](N)CC(C)C)=O
reactant | 1-hydroxy-benzotriazole | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | Nα -benzyloxycarbonyl-D-tryptophyl-L-leucine methyl ester | COC([C@@H](NC([C@H](NC(=O)OCC1=CC=CC=C1)CC1=CNC2=CC=CC=C12)=O)CC(C)C)=O | C26H31N3O5
solvent | methanol | CO | CH4O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Nα-Benzyloxycarbonyl-D-tryptophan | C(C1=CC=CC=C1)OC(=O)N[C@H](CC1=CNC2=CC=CC=C12)C(=O)O | C19H18N2O4
